US05719141
h) 2(S)-Tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanal
A solution of 3.35 g methyl 2(S)-tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanoate in 44 ml of toluene is cooled to -75° C. under argon, and 12.9 ml of a 20% solution of diisobutylaluminium hydride in toluene are then added dropwise in the course of 30 min. The mixture is stirred at -75° C. for a further 45 min. The reaction is then quenched by rapid addition of 2.8 ml of methanol and the mixture is poured onto 50 ml of a half-saturated aqueous potassium sodium tartrate solution. The mixture is extracted with diethyl ether and the combined organic phases are dried over sodium sulfate and concentrated. The title compound (Rf (E)=0.34) is further reacted directly as the crude product.

reactant | methyl 2(S)-tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanoate | 3.35 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C | C22H45NO5Si
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 44 ml | C1(=CC=CC=C1)C | C7H8
product | 2(S)-Tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanal | C(C)(C)(C)OC(=O)N[C@H](C=O)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C | C21H43NO4Si
